US04769482
5-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-propyl]-tetrazole
The nitrile intermediate of the title compound was prepared following the procedure of Example 21 using 50.0 g. (257 mmoles) of 2,4-dihydroxy-3-propylacetophenone, 29.27 g. (282 mmoles) of 4-chlorobutyronitrile, 38.97 g. (282 mmoles) of potassium carbonate, and 4 g. of potassium iodide in 800 ml. of methyl ethyl ketone giving 57.58 g. of the nitrile intermediate as a rose-colored semi-crystalline solid. Twenty grams of the nitrile intermediate were then converted to the tetrazole in the usual manner giving 6.9 g. of the title compound, m.p. about 143°-145° C.

reactant | 2,4-dihydroxy-3-propylacetophenone | 257 mmoles | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | 4-chlorobutyronitrile | 282 mmoles | ClCCCC#N | C4H6ClN
reactant | potassium carbonate | 282 mmoles | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | tetrazole | N1N=NN=C1 | CH2N4
solvent | methyl ethyl ketone | 57.58 g | C(C)C(=O)C | C4H8O
product | 5-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-propyl]-tetrazole | C(C)(=O)C1=C(C(=C(OCCCC2=NN=NN2)C=C1)CCC)O | C15H20N4O3
